US06392056B1
2-(1,1-Diphenylethyl)-4-tert-butylphenol
To a 500 mL three-necked flask equipped with a mechanical stirrer, 40 g of 4-tert-butylphenol, 40 g of hexanes and 1.9 g of p-toluenesulfonic acid are charged. The slurry is heated to 60° C. at which time 62 g of 1,1-diphenylethylene is added. The temperature is increased to 110° C. and the hexanes are removed by distillation. After 4.5 hours, the reaction mass is cooled to ambient temperature and purified by silica gel chromatography using heptane/ethyl acetate as the eluent. Sixty (60) grams of the title compound is obtained whose structure is confirmed by 1H nmr.

reactant | 4-tert-butylphenol | 40 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | p-toluenesulfonic acid | 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,1-diphenylethylene | 62 g | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
product | 2-(1,1-Diphenylethyl)-4-tert-butylphenol | C1(=CC=CC=C1)C(C)(C1=CC=CC=C1)C1=C(C=CC(=C1)C(C)(C)C)O | C24H26O
